US06391887B1
4-Amino-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinoline-4-thione (110 mg, 0.54 mmol) is stirred in 7 M methanolic ammonia solution (50 ml) for 15 hours at room temperature. The batch is concentrated by evaporation in a vacuum. The residue is purified by column chromatography on silica gel with dichloromethane-methanol-concentrated NH4OH as an eluant.

reactant | 1,2,3,3a,5,9b-Hexahydrocyclopenta[c]quinoline-4-thione | 0.54 mmol, 110 mg | C1CCC2C(NC=3C=CC=CC3C21)=S | C12H13NS
reactant | ammonia | 7 M, 50 ml | N | H3N
product | 4-Amino-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | NC1=NC=2C=CC=CC2C2C1CCC2 | C12H14N2
